US08067448B2
K2CO3 (1.97 g, 14.3 mmol) was added to a mixture of 4-fluorobenzo[b]thiophene-7-carbonitrile [(1.01 g, 5.70 mmol), which was prepared according to the procedures reported in WO 2004016576] and D-threonine (815 mg, 6.84 mmol) in DMSO (15 mL) at room temperature. The resulting mixture was heated to 80° C. and stirred for 15 h. After cooling to room temperature, the reaction mixture was poured into ice-water (150 mL) and extracted with 10% EtOAc in hexanes (2×50 mL). The aqueous phase was acidified to pH=2˜3 with 2N HCl and extracted with EtOAc (2×100 mL). The EtOAc extracts were washed with water, brine and dried with Na2SO4. Removal of the solvent gave the crude (2R,3S)-2-(7-cyanobenzo[b]thiophen-4-ylamino)-3-hydroxybutanoic acid (1.20 g, 76%). 1H NMR (400 MHz, Acetone-d6, δ in ppm) 7.81 (d, J=5.7 Hz, 1H), 7.73 (d, J=5.7 Hz, 1H), 7.63 (d, J=8.4 Hz, 1H), 6.66 (d, J=8.4 Hz, 1H), 6.12 (d, J=8.0 Hz, 1H), 4.46 (m, 1H), 4.33 (m, 1H), 1.34 (d, J=6.2 Hz, 3H).

reactant | K2CO3 | 14.3 mmol, 1.97 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-fluorobenzo[b]thiophene-7-carbonitrile | FC1=CC=C(C=2SC=CC21)C#N | C9H4FNS
reactant | D-threonine | 6.84 mmol, 815 mg | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | (2R,3S)-2-(7-cyanobenzo[b]thiophen-4-ylamino)-3-hydroxybutanoic acid | 1.20 g, 76% | C(#N)C1=CC=C(C2=C1SC=C2)N[C@@H](C(=O)O)[C@H](C)O | C13H12N2O3S
